US08211927B2
D: 4-Chloro-5-(4-chlorophenyl)-N-(tetrahydro-2H-pyran-4-yl)isoxazole-3-carboxamide
A mixture of ethyl 4-chloro-5-(4-chlorophenyl)isoxazole-3-carboxylate (20 mg, 0.07 mmol) and 4-aminotetrahydropyran (83 μL, 0.7 mmol) in absolute ethanol (1 mL) was heated to reflux for 36 hours. The volatiles were removed in vacuo and the resulting residue was purified by silica gel chromatography, eluting with dichloromethane, to afford the title compound: (16.8 mg, 0.05 mmol).

reactant | ethyl 4-chloro-5-(4-chlorophenyl)isoxazole-3-carboxylate | 0.07 mmol, 20 mg | ClC=1C(=NOC1C1=CC=C(C=C1)Cl)C(=O)OCC | C12H9Cl2NO3
reactant | 4-aminotetrahydropyran | 0.7 mmol, 83 μL | NC1CCOCC1 | C5H11NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-Chloro-5-(4-chlorophenyl)-N-(tetrahydro-2H-pyran-4-yl)isoxazole-3-carboxamide | ClC=1C(=NOC1C1=CC=C(C=C1)Cl)C(=O)NC1CCOCC1 | C15H14Cl2N2O3
